US06235771B1
In DMF (120 ml) was dissolved 4-bromobenzyl alcohol (15 g). To the mixture was added under ice-cooling 65% sodium hydride (3.0 g), and the mixture was stirred at room temperature for 3 hours. To the mixture was added dropwise at room temperature 2-bromoethylethyl ether (11.4 g), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=10/1) to give 1-bromo-4-[(2-ethoxyethoxy)methyl]benzene (9.0 g). In THF (104 ml) was dissolved 1-bromo-4-[2-ethoxyethoxy)methyl)]benzene (8.7 g). To the mixture was added dropwise at −78° C. 1.6M n-butyllithium/hexane (23 ml), and the mixture was stirred for 1 hour. To the mixture was added dropwise trimethyl borate (8.7 g), and the mixture was stirred for 30 minutes and warmed to room temperature. To the mixture was added 5% sulfuric acid (35 ml), and the mixture was stirred for 15 minutes. The reaction mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=1/2) to give 4-[(2-ethoxyethoxy)methyl]phenyl borate (2.1 g).

reactant | 4-bromobenzyl alcohol | 15 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | sodium hydride | 3.0 g | [H-].[Na+]
reactant | 2-bromoethylethyl ether | 11.4 g | BrCCOCC | C4H9BrO
reactant | water | O | H2O
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 1-bromo-4-[(2-ethoxyethoxy)methyl]benzene | 9.0 g | BrC1=CC=C(C=C1)COCCOCC | C11H15BrO2
